*
* NGSPICE simulation script
*

* Components

.model Default D

Vin  1 0  0.0 ac 1.0 sin(0 23 50 0 0 270); n = 10
Vaux 5 22 0

D1 3 1 Default
D2 1 2 Default
D3 0 2 Default
D4 3 0 Default

C1 2 3 3.1u

R1 2 4 4.9K

D5  4  5  Default
D6  22 6  Default
D7  6  7  Default
D8  7  8  Default
D9  8  9  Default
D10 9  10 Default
D11 10 11 Default
D12 11 12 Default
D13 12 13 Default
D14 13 14 Default
D15 14 15 Default
D16 15 16 Default
D17 16 17 Default
D18 17 18 Default
D19 18 19 Default
D20 19 20 Default
D21 20 21 Default
D22 21 3  Default

* Plot

.control

tran 0.2m 200m

echo "********************************************"
echo  "Transient analysis"
echo "********************************************"

set hcopypscolor=1
set color0=rgb:0/0/0
set color1=rgb:f/f/f
set color2=rgb:f/0/0

echo  "CircuitSim_TAB"
print mean(v(4,3))
print maximum(v(4,3)) - minimum(v(4,3))
print mean(v(4,5))
print (maximum(v(4,5)) - minimum(v(4,5))) / (maximum(i(Vaux)) - minimum(i(Vaux)))
echo  "CircuitSim_END"

hardcopy envelope_detector_output.ps v(2,3) xlabel 'Time' ylabel 'Voltage'
echo envelope_detector_output_FIG
hardcopy voltage_regulator_output.ps v(4,3) xlabel 'Time' ylabel 'Voltage'
echo voltage_regulator_output_FIG
hardcopy output_deviation.ps (v(4,3) - 12) xlabel 'Time' ylabel 'Voltage'
echo output_deviation_FIG

quit

.endc

.end