*
* NGSPICE simulation script
* Linear circuit
*


* Forces current values to be saved
.options savecurrents


* Resistors

R1 1 2 1.01258106833K
R2 2 3 2.01414322128K
R3 2 5 3.14471800951K
R4 4 5 4.0512295385K
R5 5 6 3.04120010333K
R6 4 7a 2.02925076831K
R7 0 7b 1.01071894298K

* Independent Sources

Va 1 4 5.2435704532 ; Voltage Source
Id 0 6 1.0346810568m; Current Source
Vaux 7a 7b 0        ; Auxiliar Voltage Source

* Dependent Sources

Gb 6 3 2 5 7.06081365014m ; Voltage-Controlled Current Source
Hc 5 0 Vaux 8.16086836519K; Current-Controlled Voltage Source


.control

op

echo "***************"
echo "Operating Point"
echo "***************"

echo  "op_TAB"
print all
print V(2, 5)
print I(Vaux)
echo  "op_END"

quit

.endc

.end
