* OP-AMP subciruit:
* Connections:   Non-inverting input
*                |  Inverting input
*                |  |  Positive power supply
*                |  |  |  Negative power supply
*                |  |  |  |  Output
*                |  |  |  |  |
.subckt uA741    1  2  3  4  5
  c1   11 12 8.661E-12
  c2    6  7 30.00E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 10.61E6 -10E6 10E6 10E6 -10E6
  ga    6  0 11 12 188.5E-6
  gcm   0  6 10 99 5.961E-9
  iee  10  4 dc 15.16E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   3 11 5.305E3
  rc2   3 12 5.305E3
  re1  13 10 1.836E3
  re2  14 10 1.836E3
  ree  10 99 13.19E6
  ro1   8  5 50
  ro2   7 99 100
  rp    3  4 18.16E3
  vb    9  0 dc 0
  vc    3 53 dc 1
  ve   54  4 dc 1
  vlim  7  8 dc 0
  vlp  91  0 dc 40
  vln   0 92 dc 40
  .model dx D(Is=800.0E-18 Rs=1)
  .model qx NPN(Is=800.0E-18 Bf=93.75)
.ends

* Circuit:

  * Power supplies:
    Vcc vcc 0   5.0
    Vee 0   vee 5.0

  * Input source:
    Vin in 0 0 ac 1.0 sin(0 10m 1k)

  * OP-AMP:
    X1 ninv_in inv_in vcc vee out uA741

  * Input resistors + capacitor:
    Rin0 x in     1k
    Rin1 x in     1k
    Cin  x inv_in 220n

  * Feedback resistor + capacitor:
    Rf inv_in out 1k
    Cf inv_in out 220n

  * Gain resistors:
    Ra0 ninv_in 0   100k
    Ra1 ninv_in 0   100k
    Ra2 ninv_in 0   100k
    Ra3 ninv_in 0   10k
    Rb0 ninv_in out 10k
    Rb1 ninv_in out 10k

  * Load:
    RL out 0 8

.op
.end

.control

  * Frequency analysis:
    ac dec 1000 10 100MEG

    set hcopypscolor=1
    set color0=rgb:0/0/0
    set color1=rgb:f/f/f
    set color2=rgb:f/0/0

    hardcopy simgain.ps  vdb(out)
    echo 'simgain_FIG'

    hardcopy simphase.ps vp(out)
    echo 'simphase_FIG'

    * Gain and central frequency:

      let loop = 0
      while vdb(out)[loop] < vdb(out)[loop + 1]
        let loop = loop + 1
      end

      let gain = vdb(out)[loop]
      let fc  = 10^(1 + loop / 1000)

      echo 'simfr_TAB'
      print fc
      print gain
      echo 'simfr_END'

.endc 